US05705517
2-Methylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid
A solution of ethyl 2-methylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate (0.2 g) in a methanol (5 ml) solution containing 1N NaOH 1.3 ml) was heated under reflux for 2 hours. The reaction mixture was adjusted to about pH 4 with dilute hydrochloric acid to give crystals. The crystals were collected by filtration, and recrystallized from ethyl acetate-hexane to give colorless crystals (0.17 g, 81%), m.p. 223°-225° C. (decomp.).

reactant | ethyl 2-methylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 0.2 g | CSC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C25H22N6O2S
reactant | NaOH | 1N, 1.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 2-Methylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | 0.17 g, 81% | CSC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)O | C23H18N6O2S
